US05157027
A. 4-(4-Methyl-3-pentenyl)benzoic acid, methyl ester
In a flame-dried flask, to a stirred solution of 11.8 mL (84.3 mmol) of diisopropylamine in 80 mL of THF at -10° C. under argon, was added 33.0 mL (82.5 mmol) of 2.5M n-butyllithium in hexane at a rate to keep the temperature below +5° C. The resulting light yellow solution was stirred 10 minutes and then a solution of 5.45 g (40.0 mmol) of p-methylbenzoic acid in 20 mL of THF was added over 15 minutes. The resulting deep red solution was stirred for 45 minutes and 4.61 mL (40.0 mmol) of 1-bromo-3-methyl-3-butene was then added over 5 minutes. Within 15 minutes, the solution had faded to a light yellow color. The reaction mixture was poured into 150 mL of ice cold 1M hydrochloric acid and extracted twice with ether. The ether extracts were combined, washed once with 1M hydrochloric acid and then extracted twice with 45 mL portions of 1M sodium hydroxide solution. The base extracts were combined, washed once with ether and then poured into 95 mL of 1M hydrochloric acid. A white solid formed which was extracted into dichloromethane. The organic extract was dried (MgSO4) and evaporated to give 7.10 g of a white, waxy solid. The solid was dissolved in 30 mL of DMF under argon and 1.65 g (41.2 mmol) of NaH (60% mineral oil dispersion) was added in small portions. After 30 minutes, 3.1 mL (50.1 mmol) of iodomethane was added and the reaction was stirred at room temperature. After 24 hours, the reaction was quenched with water and extracted three times with hexanes. The extracts were combined, washed once with saturated sodium bicarbonate solution, once with 10% sodium thiosulfate solution, twice with water, once with brine, dried (MgSO4) and evaporated. Distillation with a 10 cm Vigreau column at 0.25 mm Hg gave 3.68 g (42%) of title compound as a colorless oil, bp 105°-107° C.

reactant | diisopropylamine | 84.3 mmol, 11.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 82.5 mmol, 2.5M, 33.0 mL | C(CCC)[Li]
reactant | p-methylbenzoic acid | 40.0 mmol, 5.45 g | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | 1-bromo-3-methyl-3-butene | 40.0 mmol, 4.61 mL | BrCCC(=C)C | C5H9Br
reactant | NaH | 41.2 mmol, 1.65 g | [H-].[Na+]
reactant | iodomethane | 50.1 mmol, 3.1 mL | IC | CH3I
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(4-Methyl-3-pentenyl)benzoic acid, methyl ester | 3.68 g, 42% | CC(=CCCC1=CC=C(C(=O)OC)C=C1)C | C14H18O2
